US08252792B2
To a solution of crude 1-[2-(2-bromo-4-fluoro-6-nitro-phenyl)-vinyl]-pyrrolidine (2.74 g) in tetrahydrofuran (25 ml) and methanol (25 ml) was added Raney nickel, 50% slurry in water, active catalyst (5.0 ml) followed by careful addition of hydrazine monohydrate (0.63 ml). After stirring for 24 hours the reaction mixture was filtered through celite and the filtrate reduced in vacuo. The residue was purified by flash chromatography to give 4-bromo-6-fluoro-1H-indole (0.80 g).

reactant | 1-[2-(2-bromo-4-fluoro-6-nitro-phenyl)-vinyl]-pyrrolidine | 2.74 g | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C=CN1CCCC1 | C12H12BrFN2O2
reactant | hydrazine monohydrate | 0.63 ml | O.NN
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | 4-bromo-6-fluoro-1H-indole | 0.80 g | BrC1=C2C=CNC2=CC(=C1)F | C8H5BrFN
